US09388149B2
A mixture of 1.98 g (6.5 mmol, 1 eq) of 6-amino-3-chloro-2-(4-methylpiperazine-1-sulfonyl)phenol and 2.20 g (48.8 mmol, 2 eq) of 3,4-diethoxy-3-cyclobutene-1,2-dione was placed in solution in 20 ml of ethanol. The reaction medium was heated at 50° C. for 16 hours. The insoluble material was filtered off, washed with ethanol and dried under vacuum at 45° C. 2.05 g of 3-[4-chloro-2-hydroxy-3-(4-methylpiperazine-1-sulfonyl)phenylamino]-4-ethoxycyclobut-3-ene-1,2-dione were obtained in the form of a yellow solid. Yield=74%.

reactant | 6-amino-3-chloro-2-(4-methylpiperazine-1-sulfonyl)phenol | 6.5 mmol, 1.98 g, 1 eq | NC1=CC=C(C(=C1O)S(=O)(=O)N1CCN(CC1)C)Cl | C11H16ClN3O3S
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 48.8 mmol, 2.20 g, 2 eq | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-[4-chloro-2-hydroxy-3-(4-methylpiperazine-1-sulfonyl)phenylamino]-4-ethoxycyclobut-3-ene-1,2-dione | 2.05 g, Yield=74% | ClC1=C(C(=C(C=C1)NC=1C(C(C1OCC)=O)=O)O)S(=O)(=O)N1CCN(CC1)C | C17H20ClN3O6S
